US08975254B2
a) 2-Chloro-4-formyl-3-methylbenzonitrile
A mixture of 2-chloro-4-iodo-3-methylbenzonitrile (150 g, 0.54 mol) and THF (1200 ml) was cooled down to −32° C. A 2 M i-PrMgCl-THF-solution (541 ml, 1.08 mol) was added slowly during 1 h and the mixture was stirred at −32° C. for 2 h. DMF (83 ml, 1.08 mol) was added at −32° C. and the reaction mixture was allowed to warm to RT. After stirring overnight 10% HCl solution (1000 ml) was added at 0° C. The layers were separated and the aqueous layer was extracted with diethyl ether (2×900 ml). The combined organic layers were washed with saturated NaHCO3 solution (900 ml) and brine (750 ml). The organic layer was dried with Na2CO4, filtered and evaporated. The dried crude product (95 g) was treated with hot n-heptane and activated carbon. The title compound was obtained as a yellow solid and used without further purification. 1H-NMR (400 MHz; CDCl3): δ 2.78 (s, 3H), 7.71 (d, 1H), 7.84 (d, 1H), 10.36 (s, 1H).

reactant | 2-chloro-4-iodo-3-methylbenzonitrile | 0.54 mol, 150 g | ClC1=C(C#N)C=CC(=C1C)I | C8H5ClIN
reactant | i-PrMgCl THF | 1.08 mol, 2 M, 541 ml | C(C)(C)[Mg]Cl.C1CCOC1
reactant | DMF | 1.08 mol, 83 ml | CN(C)C=O | C3H7NO
reactant | HCl | 1000 ml | Cl | ClH
solvent | THF | 1200 ml | C1CCOC1 | C4H8O
product | 2-Chloro-4-formyl-3-methylbenzonitrile | ClC1=C(C#N)C=CC(=C1C)C=O | C9H6ClNO
